datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]2[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]2=[O:33])C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([P:10](C2=CC=C(C)C=C2)C2=CC=C(C)C=C2)C=C1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC1=CC=C([P+:10](C2=CC=C(C)C=C2)(C2=CC=C(C)C=C2)[S:20]C(F)F)C=C1 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11](C2=CC=C(C)O2)(C2=CC=C(C)O2)[C:10]2=CC=C(C)O2)O1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC=C([B:11](C2=CC=C(C)O2)C2=CC=C(C)O2)O1.CC1=CC=[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)O1 10,11=10,20"
"CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94](OC)[CH:103]=[CH:102]1)=[O:72].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC[O:82][C:71]([C:10]([S:20]C(F)F)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94](OC)[CH:103]=[CH:102]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1C[N:10]=[C:11]2[N:12](C1)CCC[NH:62]2.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([N:10]1CCC[N+:12]2=[C:11]1[NH:62]CCC2)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.CC[O:72][C:61](/[CH:10]=[C:11](/C)[O-:12])=[O:62]>>CC[O:72][C:61]([CH:10]([C:11](C)=[O:12])[CH:20]1CCC[C:22]([O-:23])=[CH:21]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2.O=[N+]([O-])C1=CC=C([C:61]([O-:10])=[O:62])C=C1>>C[CH:20]([O:10][C:61](C1=CC=C([N+](=O)[O-])C=C1)=[O:62])[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[O-:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1>>CC[O:34][C:32]([C:21]([CH:20]([O:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CC(C)[P:10](C(C)C)C(C)C>>CC(C)[P+:10](C(C)C)(C(C)C)[CH:20]([CH:21]=[C:22](C(C)(C)C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[C:11]1=[O+:12]C(C)C(C)[O:62]1.[H:10][CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12"
"CC(C)(C)C[C:11](C)=[CH2:10].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11](C)CC(C)(C)C)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1.O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1.O=[N+]([O-])C1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[Cl:20])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[CH:51]=[CH:52][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12"
"C[N:10](C)[NH2:61].C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>C[N+:10](C)([S:20]C(F)(F)F)[NH2:61].C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10=20;20,21=21"
"C1C[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)CCO1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>C[C:21]([CH:20]([N:10]1[CH:11]=[CH:12][C:13](=[N+:14]2CCOCC2)[CH:62]=[CH:61]1)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[NH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10]C(C)(C)C)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
